US04687775
2-[(imidazo[1,2-a]pyridin-8-ylmethyl)thio]-5-methyl-1H-benzimidazole hemihydrate
A mixture of 12.2 g (0.1 mole) of 3,4-diaminotoluene, 35 ml of carbon disulfide, and 4.0 g (0.1 mole) of sodium hydroxide was heated at reflux in 350 ml of ethanol. After 2.5 hours the mixture was concentrated in vacuo. The residue was suspended in 200 ml of 4% aqueous hydrochloric acid, collected by filtration, washed sequentially with water and diethyl ether, and air dried to yield 12.2 g of 2-mercapto-5-methylbenzimidazole, as confirmed by the nmr and infrared spectra. The title compound (796 mg) was prepared by the method of Example 6 using 8-hydroxymethylimidazo[1,2-a]pyridine as the hydrochloride salt and using 569 mg (3.5 mmole) of 2-mercapto-5-methylbenzimidazole instead of 2-mercapto-5-methoxybenzimidazole. Structure assignment was supported by elemental analysis.

reactant | 8-hydroxymethylimidazo[1,2-a]pyridine | OCC=1C=2N(C=CC1)C=CN2 | C8H8N2O
reactant | 2-mercapto-5-methylbenzimidazole | 3.5 mmole, 569 mg | SC=1NC2=C(N1)C=CC(=C2)C | C8H8N2S
product | 2-[(imidazo[1,2-a]pyridin-8-ylmethyl)thio]-5-methyl-1H-benzimidazole hemihydrate | 796 mg | O.N=1C=CN2C1C(=CC=C2)CSC2=NC1=C(N2)C=CC(=C1)C.N=1C=CN2C1C(=CC=C2)CSC2=NC1=C(N2)C=CC(=C1)C | InChI=1S/2C16H14N4S.H2O/c2*1-11-4-5-13-14(9-11)19-16(18-13)21-10-12-3-2-7-20-8-6-17-15(12)20;/h2*2-9H,10H2,1H3,(H,18,19);1H2
